US04198420
A mixture of 2.5 g of 2-chloro-10,11-dihydro-11-oxospiro[dibenz(b,f)thiepin-10,4'-piperidine], free base of Example 5, 2.5 g of sodium bicarbonate, 2.0 g of potassium iodide and 1.1 g of propargyl bromide in 30 ml of dimethylformamide is treated according to the procedure of Example 16 to provide 2-chloro-10,11-dihydro-11-oxo-1'-(2-propynyl)spiro[dibenz(b,f)thiepin-10,4'-piperidine].

reactant | 2-chloro-10,11-dihydro-11-oxospiro[dibenz(b,f)thiepin-10,4'-piperidine] | 2.5 g | ClC1=CC2=C(SC3=C(C=CC=C3)C3(CCNCC3)C2=O)C=C1 | C18H16ClNOS
reactant | sodium bicarbonate | 2.5 g | C([O-])(O)=O.[Na+]
reactant | potassium iodide | 2.0 g | [I-].[K+]
reactant | propargyl bromide | 1.1 g | C(C#C)Br | C3H3Br
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 2-chloro-10,11-dihydro-11-oxo-1'-(2-propynyl)spiro[dibenz(b,f)thiepin-10,4'-piperidine] | ClC1=CC2=C(SC3=C(C=CC=C3)C3(CCN(CC3)CC#C)C2=O)C=C1 | C21H18ClNOS
